US08017792B2
Synthesis of 1-bromo-4-chloro-3-(4-isopropylbenzyl)benzene
Synthesis was performed by a similar method as in Preparation Example 14 using 5-bromo-2-chlorobenzoic acid and cumene.

reactant | 5-bromo-2-chlorobenzoic acid | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | cumene | C1(=CC=CC=C1)C(C)C | C9H12
product | 1-bromo-4-chloro-3-(4-isopropylbenzyl)benzene | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)C(C)C | C16H16BrCl
